US07365069B2
N-(4-Ethylphenyl)pyridine-3-carboximidamide
The title compound was prepared from 3-cyanopyridine (8.5 g, 83 mmol) and 4-ethylaniline (10 g, 83 mmol) by following the procedure described in preparation 10 (15.8 g, yield 84.9%, mp 134-136 C, purity 99.8% by HPLC). 1H-NMR (CDCl3):δ 1.22-1.26 (t, 3H), 2.60-2.65 (q, 2H), 5.09 (bs, 2H, D2O exchangeable), 6.88-6.89 (d, 2H), 7.18-7.19 (d, 2H), 7.32-7.35 (m, 1H), 8.18-8.20 (d, 1H), 8.64-8.65 (d, 1H), 9.03 (s, 1H). IR (KBr) cm−1: 3302, 3108, 2965, 2928, 2844, 1655. MS m/z: 227.1 (M+).

reactant | 3-cyanopyridine | 83 mmol, 8.5 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | 4-ethylaniline | 83 mmol, 10 g | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | KBr | [K+].[Br-]
product | N-(4-Ethylphenyl)pyridine-3-carboximidamide | yield 84.9% | C(C)C1=CC=C(C=C1)NC(=N)C=1C=NC=CC1 | C14H15N3
